US04835175
Under the conditions of Example 28, 2.57 g of 4-chloroacetyl-7-hydroxyindole-2-carboxylic acid ethyl ester is reacted with 2.35 g of 3-benzylamino-3-methylbutyric acid ethyl ester and worked up, yielding 0.75 g of 4-[N-benzyl-N-(2-ethoxycarbonyl-1,1-dimethylethyl)aminoacetyl]-7-hydroxyindole-2-carboxylic acid ethyl ester hydrochloride, decomposition point 210°-212° C.

reactant | 4-chloroacetyl-7-hydroxyindole-2-carboxylic acid ethyl ester | 2.57 g | C(C)OC(=O)C=1NC2=C(C=CC(=C2C1)C(CCl)=O)O | C13H12ClNO4
reactant | 3-benzylamino-3-methylbutyric acid ethyl ester | 2.35 g | C(C)OC(CC(C)(C)NCC1=CC=CC=C1)=O | C14H21NO2
product | 4-[N-benzyl-N-(2-ethoxycarbonyl-1,1-dimethylethyl)aminoacetyl]-7-hydroxyindole-2-carboxylic acid ethyl ester hydrochloride | 0.75 g | Cl.C(C)OC(=O)C=1NC2=C(C=CC(=C2C1)C(CN(C(CC(=O)OCC)(C)C)CC1=CC=CC=C1)=O)O | InChI=1S/C27H32N2O6.ClH/c1-5-34-24(32)15-27(3,4)29(16-18-10-8-7-9-11-18)17-23(31)19-12-13-22(30)25-20(19)14-21(28-25)26(33)35-6-2;/h7-14,28,30H,5-6,15-17H2,1-4H3;1H
